US05378728
2-(1,1-dimethylethyl)-2-(4-carboxyphenyl)-1,3-dioxolane
A mixture of 63.5 grams (0.31 mole) of 4-(2,2-dimethyl-1-oxopropyl)benzoic acid, 156 ml. of ethylene glycol, and 1 gram of toluenesulfonic acid in 600 ml of toluene is refluxed for 24 hours using a Dean-Stark trap to remove water. The mixture is then cooled and partially evaporated; and to the residue, 4.5 grams of solid potassium hydroxide are carefully added followed by 225 ml of water. The resulting mixture is refluxed for 11/2 hours, cooled, filtered and the layers separated. The aqueous layer is acidified with 2N hydrochloric acid, and the resulting precipitate is removed by filtration. The precipitate is washed with water, then water/ethanol (5/1), and then petroleum ether. The product is dried in vacuo to yield the title product (m.p. 213.5°-215.5° C.).

reactant | 4-(2,2-dimethyl-1-oxopropyl)benzoic acid | 0.31 mole, 63.5 grams | CC(C(=O)C1=CC=C(C(=O)O)C=C1)(C)C | C12H14O3
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | toluenesulfonic acid | 1 gram | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1,1-dimethylethyl)-2-(4-carboxyphenyl)-1,3-dioxolane | CC(C)(C)C1(OCCO1)C1=CC=C(C=C1)C(=O)O | C14H18O4
